US08114868B2
(S)-6-(3-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one
The title compound was prepared from (S)-6-(3-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl) -1,3-oxazinan-2-one and 4-iodo-1-methylpyridin-2(1H)-one following a procedure analogous to that described in Example 23 Step 9. LC-MS Method 2 tR=1.57 min, m/z=501, 479, 421.

reactant | (S)-6-(3-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)ethyl) -1,3-oxazinan-2-one | FC=1C=C(C=CC1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)CC(C)(C)O | C28H37BFNO5
reactant | 4-iodo-1-methylpyridin-2(1H)-one | IC1=CC(N(C=C1)C)=O | C6H6INO
product | (S)-6-(3-fluorophenyl)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(1-methyl-2-oxo-1,2-dihydropyridin-4-yl)phenyl)ethyl)-1,3-oxazinan-2-one | FC=1C=C(C=CC1)[C@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CC(N(C=C1)C)=O)CC(C)(C)O | C28H31FN2O4
